Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / iodine
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old R-handed woman, pmh of
multiple concussions and ?brain tumor, who presents with 
episodes
concerning for seizure. 

This past week, she was in her USOH until she hit her head on a
door knob on ___ (3 DPTA). She vision darkened, but she had
no LOC. She thought she may have gotten a concussion and she 
went
to bed and slept well. On ___ morning (2 DPTA), she had a
headache that was worse than her usual headache. Her usual
headaches occur constantly at a low level at the occiput, which
she describes as " you know how the brain is full of squiggles -
it feels that someone has grabbed one of the squiggles on the
brain really tight". She occasionally has photophobia, nausea
with these headaches. When her headaches are particularly 
strong,
she takes naproxen 375 mg, which she takes no more than 2 times 
a
week. She is planning to pursue medical marijuana with her
neurologist in ___. 

Her Headache on ___ morning was more intense than this
typical headache and was also painful at the spot where she hit
her head ("as if there is a lot of pressure in her head). She
also had photophobia, nausea. She also felt overall numb and
groggy. She went to the health clinic and was referred to ED, 
who
diagnosed her with a concussion/post-concussive syndrome and 
sent
her home. 

On ___ (1 day prior to presentation), she was not feeling
well (similar to her prior concussions) and did not go to her
college classes. She decided to go to the pharmacy to get her
prescriptions, but was feeling confused and when she was 
outside,
she forgot why she went out. She then stumbled into a stranger.
When she reached her building again (she lives on the fourth
floor), she stood at the end of the stairs, wondering if she can
make it up the stairs. The next thing she remembers is being on
the ground and hearing her name being yelled. After this, she
remembers being in the hospital. 

Per her roommate at bedside, Her got a text from ___ that 
said
she was on the floor and could not get up. Roommate found ___
on the floor, shivering with her eyes closed, talking in a
whisper. She was talking appropriately and was not confused, but
she would go in and out of consciousness. She couldn't get up, 
so
they called campus police. The roommate then got out of room for
them. The Campus Police who (per roommate are trained EMT) said
they saw 4 seizures in 10 mins (no report of event is 
available).
The roommate did not witness the event. There was no UI or TB;
but patient said she noticed a bite in her cheek. 

She was placed in an ambulance and taking to ___. During the
ride, she was still talking to her roommate appropriately ( i.e.
"laughs when [roommate] makes a joke"), eyes slightly closed; 
and
did not open eyes until they got to hospital. 

Of note, she has had prior syncopal events, but she says they 
she
feels faint prior to the event and will know when she will pass
out.  

She had an episodes concerning for staring spell. 1 month ago,
She went to a concert where there were lots of bright lights.
After she came home, she was vomiting from midnight to 9 am and
she couldn't stay upright. She was taken to hospital in the
morning. There was concern for ?staring spell in the ED.  She
also Noticed a time lapse on ___, while she was in class.
She thought maybe it was a staring spell. Then in the health
clinic later in the day on ___, there was concern she may
have had another staring spell happened again. 

She has noticed occasional limb jerks in the mornings and 
nights.
She denies dropping items, but will fumble with things. 

On Epilepsy Risk Factors: 
Abnormal pregnancy:  N
Abnormal birth / neonatal:  Y She was born premature (5 pounds).
Abnormal development:  N
Febrile seizures, simple:  N
Febrile seizures, complex:  N
CNS infection:  N
Mental retardation:  N
Cerebral palsy:  N
Head injury (moderate/severe): Yes
Reports 8 concussions, such as falling off of a horse or due to
wrestling in high school or due to left eye blindness. She is in
USOH and aware or surroundings prior to head strikes. ___ times
she has LOC. 
CNS neoplasm:  Yes. 
She has a brain tumor. She was initially referred to a
neurologist in ___ for her multiple concussions and
headaches. She had MRI ___ years ago) which revealed a "tumor"
between her occipital lobe and cerebellum. She was referred to a
neurosurgeon, who said based on location and her age, he
recommended q6 month MRI for surveillance and recommended
conservative management. The symptoms she attributes to tumor
include: LOC, darkening of vision, nausea/vomitting, blurry
vision/ double vision/ spots in vision. 
CNS malformation:  N
Neurosurgical procedure:  N 
Stroke:  N
Alcohol abuse:  N
Drug abuse:  N
Family history seizures/epilepsy:  N
 
Past Medical History:
Congenital blindness in left eye. 
ADD 
Tumor
 
Social History:
___
Family History:
Seizures in her family. 
 
Physical Exam:
Physical Exam:
Vitals: T:98 P:76  R: 16  BP:104/64  SaO2:99%RA
General: Awake, cooperative, NAD. NAD, well appearing 
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Neck: Supple, 
Pulmonary: breathing comfortably in room
Cardiac: RRR
Abdomen: soft
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 0 objects. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation in R eye; 
intact
to FW in L eye. Visual acuity ___ in R; in L worse than 
___.
Fundoscopic exam revealed no papilledema, exudates, or
hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick,  proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge exam is unchanged
 
Pertinent Results:
___ 07:19AM BLOOD WBC-6.6 RBC-3.80* Hgb-11.9 Hct-35.6 
MCV-94 MCH-31.3 MCHC-33.4 RDW-12.9 RDWSD-44.1 Plt ___
___ 12:18AM BLOOD WBC-10.2* RBC-4.20 Hgb-12.7 Hct-40.2 
MCV-96 MCH-30.2 MCHC-31.6* RDW-13.0 RDWSD-45.7 Plt ___
___ 12:18AM BLOOD Neuts-71.7* ___ Monos-6.0 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-7.31* AbsLymp-1.95 AbsMono-0.61 
AbsEos-0.24 AbsBaso-0.05
___ 07:19AM BLOOD Glucose-84 UreaN-15 Creat-0.6 Na-139 
K-4.3 Cl-104 HCO3-22 AnGap-17
___ 07:19AM BLOOD ALT-11 AST-12 LD(LDH)-141 AlkPhos-42 
TotBili-0.5
___ 07:19AM BLOOD Albumin-4.2 Calcium-8.9 Phos-3.3 Mg-1.9
___ 12:18AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ CT head 1. A 1.7 x 1.2 cm CSF density lesion of the right 
quadrigeminal plate cistern, with minimal underlying mass 
effect, presumably represents an arachnoid cyst.  Correlation 
with prior imaging is recommended. 
2. No evidence of acute intracranial hemorrhage or large 
territory infarct. 
3. No calvarial fracture. 
4. If there no contraindications, MRI would be more sensitive 
for seizure 
focus. 

___ MRI brain 1. Focal lesion within the right quadrigeminal 
plate cistern compatible with an epidermoid cyst measuring 2 x 
0.8 cm, with mild mass effect on the right aspect of the 
midbrain. 
2. Mild paranasal sinus inflammatory disease. 

 
Brief Hospital Course:
___ presented with four reported seizures in 10 
minutes in the setting of a recent head strike. Her examination 
was normal. She was admitted for monitoring and evaluation. She 
underwent 24-hour continuous video EEG monitoring; prelim read 
is normal. She underwent MRI brain with and without contrast 
which was notable for an epidermoid cyst abutting the brainstem 
and otherwise normal. Lab workup showed no infection, metabolic 
disturbance, or intoxication to suggest a trigger. She had no 
further clinical or electrographic evidence of seizure. The 
etiology of her presenting events is unclear and could represent 
convulsive syncope or provoked seizure. No anti-epileptic 
medication was started and she was discharged to follow up in 
neurology clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 375 mg PO PRN Pain - Mild 
2. Vyvanse (lisdexamfetamine) 60 mg oral DAILY 

 
Discharge Medications:
1.  Naproxen 375 mg PO PRN Pain - Mild  
2.  Vyvanse (lisdexamfetamine) 60 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-concussive syndrome
epidermoid cyst
congenital blindness in left eye

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after you had an episode of 
loss of consciousness with some reported shaking movements. 
Unfortunately, we do not know the details of what happened. To 
help understand what happened we admitted you to the hospital, 
performed an MRI, and monitored you on EEG for 24 hours. The MRI 
showed no sign of any new problem, although we did see a cyst 
next to the brainstem, for which you have been followed by a 
neurologist. We do not think that this cyst is responsible for 
your symptoms. 

Your EEG appears normal. The EEG is a measure of your brain 
waves now and gives us a picture of what your brain activity is 
like at this time. It does not tell us exactly what happened in 
the past. However, it does reassure us that there is no ongoing 
irritation in the brain.

We cannot be certain what the episode was which led to your 
admission. One possibility is syncope, which is when you pass 
out; this can be associated with convulsive movements even if it 
is not a seizure. Alternatively, after a head injury, people can 
have a seizure which is related to the injury and never happens 
again. We will probably never know for sure what this episode 
was, but at this point, we do not think you should start any 
medication.

You have a follow up appointment scheduled with a neurologist at 
___, Dr. ___. If you would like to keep this appointment, 
please bring your prior records to the appointment or send them 
in beforehand. 

It was a pleasure taking care of you today.

 
Followup Instructions:
___